US05665748
A mixture of 2-[3-[4-[2-(5-methyl-2-phenyl-4-oxazolyl)ethoxy]phenyl]propyl]-1,3-dioxane (2.0 g), 2,4-oxazolidinedione (0.99 g), piperidine (0.21 g) and acetic acid (50 ml) was heated for 24 hours under reflux. The reaction mixture was concentrated under reduced pressure, to which was added ethyl acetate. The ethyl acetate layer was washed with an aqueous solution of sodium hydrogencarbonate, 2N HCl and water, successively, which was then dried (MgSO4), followed by concentration. The concentrate was purified by means of a silica gel column chromatography. From the fractions eluted with chloroform--ethyl acetate (5:1), 5-[4-[4-[2-(5-methyl-2-phenyl-4-oxazolyl)ethoxy]phenyl]butylidene]-2,4-oxazolidinedione (0.55 g, 26%) was obtained. Recrystallization from ethyl ether - methanol gave colorless needles, m.p.152°-153° C.

reactant | 2-[3-[4-[2-(5-methyl-2-phenyl-4-oxazolyl)ethoxy]phenyl]propyl]-1,3-dioxane | 2.0 g | CC1=C(N=C(O1)C1=CC=CC=C1)CCOC1=CC=C(C=C1)CCCC1OCCCO1 | C25H29NO4
reactant | 2,4-oxazolidinedione | 0.99 g | O1C(NC(C1)=O)=O | C3H3NO3
reactant | piperidine | 0.21 g | N1CCCCC1 | C5H11N
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
product | 5-[4-[4-[2-(5-methyl-2-phenyl-4-oxazolyl)ethoxy]phenyl]butylidene]-2,4-oxazolidinedione | 0.55 g, 26% | CC1=C(N=C(O1)C1=CC=CC=C1)CCOC1=CC=C(C=C1)CCCC=C1C(NC(O1)=O)=O | C25H24N2O5
